US04492795
10 g of anhydrous aluminum chloride were added to 291 g (3 mols) of 1,1-dichloroethene at -20° C., and thereafter 133 g (1 mol) of 1-ethyl-cyclopentyl chloride (Chem. Abstr. 42, 6238 (1948)) were added dropwise at 0° to 10° C. The reaction solution was allowed to warm up to 20° C., a further 5 g of aluminum chloride was added, and the mixture was stirred for a further 2 hours at 20° C. The mixture was poured on to ice, and was worked up with methylene chloride and dilute hydrochloric acid. 158 g (82% of theory) of 1-(2,2-dichlorovinyl)-1-ethyl-cyclopentane of boiling point 45° to 50° C./0.1 mm Hg were obtained by fractional distillation of the organic phase after the latter had been dried over sodium sulphate.

reactant | 1,1-dichloroethene | 3 mols, 291 g | ClC(=C)Cl | C2H2Cl2
reactant | 1-ethyl-cyclopentyl chloride | 1 mol, 133 g | C(C)C1(CCCC1)Cl | C7H13Cl
reactant | hydrochloric acid | Cl | ClH
catalyst | aluminum chloride | 10 g | [Cl-].[Al+3].[Cl-].[Cl-]
catalyst | aluminum chloride | 5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(2,2-dichlorovinyl)-1-ethyl-cyclopentane | 158 g, 82% | ClC(=CC1(CCCC1)CC)Cl | C9H14Cl2
